US06365736B1
2-Methyl-3-oxo-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine
550 mg (1.623 mmol) of 2-methyl-3-oxo-6-[2-(3-chlorobenzylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine is mixed in 10 ml of absolute dichloromethane with 425.2 mg of di-tert-butyldicarbonate and 243.3 mg of triethylamine. After three hours of stirring at room temperature, the batch is diluted with dichloromethane and then washed with saturated sodium bicarbonate solution and with brine. After the organic phase is dried, the solvent is spun off, and the remaining residue is chromatographed on silica gel (mobile solvent: ethyl acetate/hexane). The yield is 742.6 mg (>100%).

reactant | 2-methyl-3-oxo-6-[2-(3-chlorobenzylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine | 1.623 mmol, 550 mg | CC1OC2=C(NC1=O)C=C(C=C2)CCNCC2=CC(=CC=C2)Cl | C18H19ClN2O2
reactant | di-tert-butyldicarbonate | 425.2 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 243.3 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Methyl-3-oxo-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine | CC1OC2=C(NC1=O)C=C(C=C2)CCN(C(=O)OC(C)(C)C)CC2=CC(=CC=C2)Cl | C23H27ClN2O4
